US03957833
By utilizing the procedure of Example 8, by reacting p-[(3,7-dimethyl-2,6-octadienyl)oxy]benzoic acid with propargyl bromide, there is obtained p-[(3,7-dimethyl-2,6-octadienyl)oxy]benzoic acid propargyl ester; B.P. 135°-137°C/0.01 mmHg.

reactant | p-[(3,7-dimethyl-2,6-octadienyl)oxy]benzoic acid | CC(=CCOC1=CC=C(C(=O)O)C=C1)CCC=C(C)C | C17H22O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | p-[(3,7-dimethyl-2,6-octadienyl)oxy]benzoic acid propargyl ester | C(C#C)OC(C1=CC=C(C=C1)OCC=C(CCC=C(C)C)C)=O | C20H24O3
